US07351719B2
75) methyl (2-{2-chloro-4-[2-(2,4-dichloro-phenoxy)-acetylamino]-phenoxy}-ethylamino)-acetate
75 μL (0.54 mmol) of triethylamine and 70 mg (0.18 mmol) of N-[3-chloro-4-(2-oxo -ethoxy)-phenyl]-2-(2,4-dichloro-phenoxy)-acetamide was added to a suspension of 45 mg (0.36 mmol) of methyl amino-acetate hydrochloride in 2 mL dichloromethane/THF (1:1). 114 mg (0.54 mmol) of sodium triacetoxyborohydride was added and the mixture was stirred for 3 hours at RT. 100 mL of 2 N aqueous sodium carbonate solution was added and the aqueous phase was exhaustively extracted with chloroform. The combined org. extracts were dried over magnesium sulphate, evaporated down i. vac. and purified by column chromatography (silica gel, EtOAc/MeOH 9:1).

reactant | triethylamine | 0.54 mmol, 75 μL | C(C)N(CC)CC | C6H15N
reactant | N-[3-chloro-4-(2-oxo -ethoxy)-phenyl]-2-(2,4-dichloro-phenoxy)-acetamide | 0.18 mmol, 70 mg | ClC=1C=C(C=CC1OCC=O)NC(COC1=C(C=C(C=C1)Cl)Cl)=O | C16H12Cl3NO4
reactant | methyl amino-acetate hydrochloride | 0.36 mmol, 45 mg | Cl.NCC(=O)OC
reactant | sodium triacetoxyborohydride | 0.54 mmol, 114 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium carbonate | 2 N, 100 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane THF | 2 mL | ClCCl.C1CCOC1
product | methyl (2-{2-chloro-4-[2-(2,4-dichloro-phenoxy)-acetylamino]-phenoxy}-ethylamino)-acetate | ClC1=C(OCCNCC(=O)OC)C=CC(=C1)NC(COC1=C(C=C(C=C1)Cl)Cl)=O | C19H19Cl3N2O5
